US08809369B2
To a suspension of 60% sodium hydride (535.0 mg, 13.7 mmol) in N,N-dimethylformamide (2.5 mL) was added cyclopropanesulfonic acid amide (1.7 g, 13.8 mmol) at room temperature. The resulting mixture was stirred at 25° C. for 1 h to afford Solution A19. A solution of 4,4-dimethyl-2-pyridin-3-yl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (231.2 mg, 0.82 mmol) and 1,1′-carbonyldiimidazole (442.0 mg, 2.76 mmol) in N,N-dimethylformamide (2.0 mL) was stirred at 70° C. for 1 h and cooled to room temperature to afford Solution B19. Solution B19 was added to Solution A19 and the resulting mixture was stirred at 25° C. for 1 h. To the reaction mixture was added water (0.5 mL). The mixture was filtered to remove the insoluble solid, and the filtrate was purified by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded cyclopropanesulfonic acid (4,4-dimethyl-2-pyridin-3-yl-1,2,3,4-tetrahydro-quinoline-6-carbonyl)-amide (94.7 mg, 30%) as a white solid: MS (ESI) M+1=386.2.

reactant | sodium hydride | 13.7 mmol, 535.0 mg | [H-].[Na+]
reactant | cyclopropanesulfonic acid amide | 13.8 mmol, 1.7 g | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | 4,4-dimethyl-2-pyridin-3-yl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 0.82 mmol, 231.2 mg | CC1(CC(NC2=CC=C(C=C12)C(=O)O)C=1C=NC=CC1)C | C17H18N2O2
reactant | 1,1′-carbonyldiimidazole | 2.76 mmol, 442.0 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
solvent | water | 0.5 mL | O | H2O
product | cyclopropanesulfonic acid (4,4-dimethyl-2-pyridin-3-yl-1,2,3,4-tetrahydro-quinoline-6-carbonyl)-amide | 94.7 mg, 30% | CC1(CC(NC2=CC=C(C=C12)C(=O)NS(=O)(=O)C1CC1)C=1C=NC=CC1)C | C20H23N3O3S
